** Sensors

.subckt CurrentSensor n+ n- vi
V1 n+ n- 0 Rser=0
B1 vi 0 V=I(V1)
.ends CurrentSensor

.subckt 3HallSensors m+ m- u v w
V1 m+ m- 0 Rser=0
B1 Pe 0 V=idtmod(I(V1)*Np,Pm0*Np,2*pi)
B2 u 0 V=(V(Pe)>=0)&(V(Pe)<pi)
B3 v 0 V=(V(Pe)>=2/3*pi)&(V(Pe)<5/3*pi)
B4 w 0 V=!((V(Pe)>=1/3*pi)&(V(Pe)<4/3*pi))
.params Np=3 Pm0=0
.ends 3HallSensors
